US07148250B2
A solution of (2-ethoxycarbonyl-indol-3-yl)-acetic acid ethyl ester (J. Med. Chem. 1991, 34, 1283–1292, 2.2 g, 8.0 mmol), methyl-3-bromobenzoate (5.16 g, 24 mmol), anhydrous powdered K2CO3 (2.2 g, 16 mmol), and copper (I) bromide (2.3 g, 16 mmol) in N-methylpyrrolidone (NMP, 10 mL) was stirred at 170° C. overnight under inert atmosphere. The solvent was then removed by stream of nitrogen, and the residue was suspended in EtOAc (20 mL). The suspension was passed through a pad of silica gel using EtOAc-hexanes (1:2) as an eluent. The filtrate was concentrated in vacuo and purified by HPLC on LUNA 10μ silica column 25×250 mm with RI detector to afford 2.4 g of 3-ethoxycarbonylmethyl-1-(3-methoxycarbonyl-phenyl)-1H-indole-2-carboxylic acid ethyl ester as a white solid (73% yield): 1H NMR (CDCl3) δ 1.11 (t, J=7.3 Hz, 3H), 1.27 (t, J=7.1 Hz, 3H), 3.91 (s, 3H), 4.12–4.24 (m, 6H), 7.01–7.06 (m, 1H), 7.17–7.32 (m, 2H), 7.51–7.62 (m, 2H), 7.69–7.75 (m, 1H), 8.01–8.04 (m, 1H), 8.11–8.14 (m, 1H).

reactant | (2-ethoxycarbonyl-indol-3-yl)-acetic acid ethyl ester | 8.0 mmol, 2.2 g | C(C)OC(CC1=C(NC2=CC=CC=C12)C(=O)OCC)=O | C15H17NO4
reactant | methyl-3-bromobenzoate | 24 mmol, 5.16 g | COC(C1=CC(=CC=C1)Br)=O | C8H7BrO2
reactant | K2CO3 | 16 mmol, 2.2 g | C(=O)([O-])[O-].[K+].[K+]
solvent | N-methylpyrrolidone | 10 mL | CN1C(CCC1)=O | C5H9NO
catalyst | copper (I) bromide | 16 mmol, 2.3 g | [Cu]Br
product | 3-ethoxycarbonylmethyl-1-(3-methoxycarbonyl-phenyl)-1H-indole-2-carboxylic acid ethyl ester | 2.4 g, 73% yield | C(C)OC(=O)C=1N(C2=CC=CC=C2C1CC(=O)OCC)C1=CC(=CC=C1)C(=O)OC | C23H23NO6
